US05051422
N-[(1-Methyl-4-phenylpiperazin-2-yl)methyl]-4-[(methylsulfonyl)amino]benzamide
In a manner similar to preparation 3, react 1-methyl-4-phenyl-2-piperazinemethanamine with 4-[(methylsulfonyl)amino]benzoyl chloride to obtain the title compound.

reactant | 1-methyl-4-phenyl-2-piperazinemethanamine | CN1C(CN(CC1)C1=CC=CC=C1)CN | C12H19N3
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | N-[(1-Methyl-4-phenylpiperazin-2-yl)methyl]-4-[(methylsulfonyl)amino]benzamide | CN1C(CN(CC1)C1=CC=CC=C1)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C20H26N4O3S
